US07585885B2
2′-Fluoro-5-(methyl-propylcarbamoyl)-biphenyl-3-carboxylic acid
Chill a solution of 2′-fluoro-5-(methyl-propylcarbamoyl)-biphenyl-3-carboxylic acid methyl ester (0.297 g, 0.903 mmol) in MeOH (2 mL) and THF (2 mL) in an ice bath. Add 2 N NaOH (1.35 mL, 2.70 mmol) to the mixture and stir at room temperature for 3 h. Acidify the solution to about pH=2 and concentrate to one half of the solvent. Partition the residue between ethyl acetate and H2O and extract the aqueous layer with ethyl acetate (2×15 mL). Wash the combined organic extract with saturated aqueous sodium chloride, dry (magnesium sulfate) and concentrate to give the title compound.

reactant | 2′-fluoro-5-(methyl-propylcarbamoyl)-biphenyl-3-carboxylic acid methyl ester | 0.903 mmol, 0.297 g | COC(=O)C=1C=C(C=C(C1)C(N(CCC)C)=O)C1=C(C=CC=C1)F | C19H20FNO3
reactant | NaOH | 2.70 mmol, 2 N, 1.35 mL | [OH-].[Na+]
solvent | MeOH | 2 mL | CO | CH4O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2′-Fluoro-5-(methyl-propylcarbamoyl)-biphenyl-3-carboxylic acid | FC1=C(C=CC=C1)C1=CC(=CC(=C1)C(N(CCC)C)=O)C(=O)O | C18H18FNO3
